US07576215B2
PHENYL[4-(3-{[(2-PYRIDIN-2-YLETHYL)AMINO]METHYL}PHENYL)-8-(TRIFLUOROMETHYL) QUINOLIN-3-YL]METHANONE
The title compound was prepared from 3-[3-benzoyl-8-(trifluoromethyl)quinolin-4-yl]benzaldehyde and 2-pyridin-2-yl-ethylamine according to the procedure of Example 66. MS m/z 512.

reactant | 3-[3-benzoyl-8-(trifluoromethyl)quinolin-4-yl]benzaldehyde | C(C1=CC=CC=C1)(=O)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=O)C=CC1)C(F)(F)F | C24H14F3NO2
reactant | 2-pyridin-2-yl-ethylamine | N1=C(C=CC=C1)CCN | C7H10N2
product | PHENYL[4-(3-{[(2-PYRIDIN-2-YLETHYL)AMINO]METHYL}PHENYL)-8-(TRIFLUOROMETHYL) QUINOLIN-3-YL]METHANONE | C1(=CC=CC=C1)C(=O)C=1C=NC2=C(C=CC=C2C1C1=CC(=CC=C1)CNCCC1=NC=CC=C1)C(F)(F)F | C31H24F3N3O
